US05545636
1-N-[1-N-(3-chloropropyl)-piperidin-4-yl]-indole
To a solution of 1-(piperidin-4-yl)-indole (100 mg, 0.5 mmol) in absolute ethanol (2 mL) was added anhydrous potassium carbonate (70 mg, 0.5 mmol) and 1-bromo-3-chloropropane (150 mg, 1 mmol). After stirring overnight additional 1-bromo-3-chloropropane (150 mg) was added and stirring continued for 2 hours. The mixture was evaporated; and the residue dissolved in methylene chloride and shaken with water. The organic solution was dried over anhydrous potassium carbonate and evaporated. The residue was chromatographed on silica gel with methylene chloride/ethanol (95:5) to give the title compound (90 mg, 65% yield).

reactant | 1-(piperidin-4-yl)-indole | 0.5 mmol, 100 mg | N1CCC(CC1)N1C=CC2=CC=CC=C12 | C13H16N2
reactant | potassium carbonate | 0.5 mmol, 70 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 1 mmol, 150 mg | BrCCCCl | C3H6BrCl
reactant | 1-bromo-3-chloropropane | 150 mg | BrCCCCl | C3H6BrCl
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-N-[1-N-(3-chloropropyl)-piperidin-4-yl]-indole | 90 mg, 65% yield | ClCCCN1CCC(CC1)N1C=CC2=CC=CC=C12 | C16H21ClN2
